* C:\Users\allys\Desktop\SlugSat\COVID-19-Simulations\SE\Radiation_Detector\Pulse_Shaper_Waveforms\Combined-Pulser-CSP-Shaper (250 ns)\combined-pulser-CSP-PS - sourced.asc
R11 0 N010 240
R5 0 N011 1k
C1 N010 N009 1000pF
R4 N004 N011 930
R8 0 N005 1k
XU1 N010 N011 N006 N003 N011 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU2 N012 N005 N006 N003 N005 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 0 N016 1k
R3 N014 N016 1k
XU3 N013 N016 N006 N003 N014 level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 N005 N004 290pf
R2 N012 N004 930
C3 N012 0 100pF
C2 N013 0 100pF
R6 N013 N005 930
R12 0 N017 100
R13 output N017 1.25k
XU5 N015 N017 N006 N003 output level.2 Avol=1Meg GBW=80Meg Slew=200Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 N015 0 100pF
R14 N015 N014 930
R7 N002 N001 68k
C5 N002 N001 750pF
C7 0 N008 30p
R9 N009 N002 50
R10 N001 N008 35
V3 N007 0 PULSE(0 -1 0 1e-9 1e-3 5e-9 1e-3)
C10 N008 N007 0.1pF
R17 N009 N010 140k
V4 N006 0 -5
V5 N003 0 5
XU4 0 N001 N003 N006 N002 N003 OPA855
;ac dec 1k 100 1Meg
.tran 0 3e-6 0 1e-10
.lib C:\Users\allys\Downloads\OPA855\OPA855.LIB
.lib UniversalOpamps2.sub
.backanno
.end
