* D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\combined-pulser-CSP-PS.asc
R1 N002 N007 420
C1 N006 N005 2.30p
V2 N001 0 5
R2 N003 N002 69k
C4 N003 N002 420p
V1 N005 0 PULSE(35 26.9 0 1e-9 300e-9 0 1e-6)
C2 N007 N006 10n
C6 0 N001 0.1µ
C7 0 N004 0.1µ
C5 N001 0 6.8µ
C8 0 N004 6.8µ
V3 0 N004 5
XU1 0 N002 N001 N004 N003 MAX4225
.tran 0 1e-6 0
.lib D:\SlugSat\GitHub\COVID-19-Simulations\SE\Radiation_Detector\Combined_Waveforms\pC ~ OPA855 ~ 20 ns\Parts\MAX4223\max4223.fam
.backanno
.end
